Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Shaking, lightheadness
 
Major Surgical or Invasive Procedure:
Pacemaker placement: ___

 
History of Present Illness:
___ h/o HIV, CAD s/p CABG, bicuspid aortic valve s/p 
bioprosthetic AVR, HIV (CD4 510, VL undetectable), and Grave's 
disease presented with shaking and lightheadedness without LOC. 
When he presented to the ED, his reported "I think I had a 
seizure". The patient states that five days PTA he experienced 
an episode lasting about thirty seconds during which he was 
"shaking and could not control it." He denies LOC, post-ictal 
confusion, bowel or bladder symtpoms. Denies fevers or chills. 
There was no warning for the event, including
chest pain, shortness of breath, nausea, or diaphoresis. The 
patient reports that he experienced a similar episode this AM, 
and at that time came to the ED. No residual weakness or 
neurologic concerns.
.
In the ED, his VS 56, 124/67, 14, 100%2l. The patient reported 
persistent lightheadedness, and was found to be in CHB with 
ventricular rate ___ and SBP 110s. The patient reportedly lost 
his pulse for 10 seconds, and then experienced the shaking 
symptoms that he had described earlier. He then progressed into 
sinus rhythm spontaneously. He was given atropine, calcium 
gluconate, and glucagon in the ED. Seen by EP in the ED, and the 
plan is to place a pacemaker in patient later today.
.
On the floor, the patient reports resting comfortably. No 
symptoms to report.

 
Past Medical History:
HIV (CMV, PCP ___ ___ most recent CD4 T cell count of 580, 
undetectable viral load ___  
___'s Sarcoma s/p excision  
CAD s/p CABG (LAD only), AVR (porcine), aortic graft ___
PCP ___  
___ Disease, s/p radioactie iodine ablation  
Bipolar disorder, on Lithium, seroquel  
Depression s/p ECT c/b slight memory loss  
s/p Tonsillectomy  

 
Social History:
___
Family History:
Father with MI and died at ___.  Mother with a pacemaker, died at 
___ with ?ovarian cancer. Brother healthy, living in ___. 
 Pt has no children. 
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:   
Gen: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Proptosis. PERRL, EOMI. No oral ulcers.  
Neck: Supple without elevation of JVP. No thyromegaly.
CV: Bradycardic, normal S1, S2. ___ holosystolic murmur, best 
appreciated at the apex. No S3 or S4.  
Chest: On oxygen. Vertical midline incision. Resp were 
unlabored, no accessory muscle use. CTAB, no crackles, wheezes 
or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness.  
Ext: No c/c/e. No femoral bruits.   
NEURO: A&Ox3. CN ___ grossly intact. Preserved sensation 
throughout. ___ strength throughout. 2+ reflexes b/l
 
Pertinent Results:
Labs on Admission:
___ 10:40AM BLOOD WBC-5.0 RBC-4.91 Hgb-13.5* Hct-42.2 
MCV-86# MCH-27.5 MCHC-32.0 RDW-14.9 Plt ___
___ 10:40AM BLOOD Neuts-47.6* Lymphs-45.0* Monos-4.1 
Eos-2.6 Baso-0.7
___ 10:40AM BLOOD ___ PTT-22.4 ___
___ 10:40AM BLOOD Glucose-190* UreaN-11 Creat-1.4* Na-136 
K-5.1 Cl-106 HCO3-23 AnGap-12
___ 10:40AM BLOOD ALT-45* AST-51* CK(CPK)-265 AlkPhos-65 
TotBili-0.6
___ 10:40AM BLOOD cTropnT-<0.01
___ 10:40AM BLOOD Albumin-4.5 Calcium-9.2 Phos-2.4* Mg-2.0
___ 10:40AM BLOOD TSH-2.1
___ 10:40AM BLOOD T4-5.9
___ 10:40AM BLOOD Lithium-1.0
___ 10:43AM BLOOD Glucose-161* Lactate-2.5* Na-139 K-5.1 
Cl-103 calHCO3-22
.
Labs on Discharge:
___ 06:50AM BLOOD WBC-8.5# RBC-4.27* Hgb-12.0* Hct-36.6* 
MCV-86 MCH-28.0 MCHC-32.6 RDW-15.1 Plt ___
___ 06:50AM BLOOD Glucose-116* UreaN-11 Creat-1.1 Na-136 
K-4.5 Cl-104 HCO3-28 AnGap-9
___ 06:50AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.8
.
EKG ___ heart block with a ventricular rate of 30 
beats per minute and an atrial rate of approximately 80 beats 
per minute. QRS duration is prolonged with a right bundle-branch 
block pattern. There are extremely deep T wave inversions in the 
right precordial leads. Compared to the previous tracing of 
___ the complete heart block is new and the striking T wave 
inversions in leads V1-V3 are new. These T wave changes may be 
secondary to the intraventricular conduction delay but are much 
greater depth than ordinarily seen. Consider acute myocardial 
ischemia.  
.
CXR (___): FINDINGS: In comparison with study of ___, a 
dual-channel pacemaker has been implanted with leads extending 
into the region of the right atrium and apex of the right 
ventricle. No evidence of pneumothorax or vascular congestion. 
Some atelectatic changes are seen at the left base. On the 
lateral view, there is some opacification posteriorly. This 
could represent a combination of crowding of vessels and 
atelectasis. However, in the appropriate clinical setting, 
possibility of pneumonia would have to be considered. 
.
 
Brief Hospital Course:
Patient is a ___ h/o HIV, CAD s/p CABG, bicuspid aortic valve 
s/p bioprosthetic AVR, HIV (CD4 510, VL undetectable), and 
Grave's disease who presents with episodes of lightheadedness 
and shaking, found to be in complete heart block in ED; now s/p 
pacemaker placement.
.  
#. Complete Heart Block: Patient found to be in CHB in ED, 
subsequently had episode of asystole for time period of 13 
seconds. Rhythm returned spontaneously in ED prior to atropine 
administration. EP was consulted for PPM. Most likely 
explanation for patient's CHB is fibrosis of the conduction 
system (50% of cases). Also on ddx was thyroid dysfunction given 
the patient's history of ___, though TSH returned normal. 
Also considered Lyme, given patient's recent camping and outdoor 
activity, serology was negative. The patient's propanolol was 
discontinued prior to the procedure. The patient underwent 
successful implantation of a pacemaker. He was discharged home 
on a course of Keflex.
.  
#. CAD: No evidence of active ischemia, given patient's absence 
of chest pain, trop <0.01. Continued on ASA 81 mg.  
.  
# Thyroid: Studies from ___ within normal limits, now TSH 2.1. 
Stable. Continued levothyroxine.
.  
#. HIV: Continued home medications.
.
#. Bipolar: stable. Continued Lithium.
.

 
Medications on Admission:
Aspirin 81 mg by mouth once a day  
Propranolol 80 mg, Sustained Action 24 hr by mouth once per day
for tremors from lithium. 
Atorvastatin 10 mg by mouth once a day
Omega-3 Acid Ethyl Esters 1 gram by mouth four times a day
Acyclovir 400 mg by mouth twice a day as needed
Citalopram 10 mg by mouth daily
Cyclosporine twice daily in each eye
Darunavir [Prezista] 600 mg by mouth bid with one capsule of
ritonavir (Norvir)
Lamivudine [Epivir] 150 mg by mouth bid
Lamotrigine 100 mg by mouth twice a day
Levothyroxine 250mcg by mouth once a day ___. On 
___
& ___ take only 125mcg tablet.
Lithium 450 mg Sustained Release by mouth twice a day 
Opium Tincture by mouth once a day as needed
Oxandrolone 5 mg by mouth bid
Oxycodone-Acetaminophen 5 mg-325 mg by mouth every 4 hours as
needed
Quetiapine 75 mg by mouth at bedtime and 25mg daily PRN anxiety 
Raltegravir 400 mg by mouth bid
Ritonavir 100 mg by mouth twice daily with darunavir
Sildenafil by mouth ONE HOUR BEFORE ACTIVITY 
Testosterone Gel two pumps to skin daily
Acetylcysteine 600 mg by mouth three times a week (___)
Ascorbic Acid ___ mg by mouth three times per week (___) 
Coenzyme Q10
Cyanocobalamin (Vitamin B-12)
Ergocalciferol (Vitamin D2) 
Folic Acid 
Multivitamin 
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Omega-3 Acid Ethyl Esters 1 gram Capsule Sig: One (1) Capsule 
PO four times a day.  
4. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed.  
5. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  
6. Cyclosporine 0.05 % Dropperette Sig: One (1) drop Ophthalmic 
twice a day.  
7. Darunavir 600 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
9. Lamivudine 150 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
10. Lamotrigine 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
11. Levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO ASDIR 
(AS DIRECTED): ___.  
12. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO ASDIR 
(AS DIRECTED): ___ & ___.  
13. Lithium Carbonate 450 mg Tablet Sustained Release Sig: One 
(1) Tablet Sustained Release PO BID (2 times a day).  
14. Opium Tincture 10 mg/mL Tincture Sig: One (1) spoon PO once 
a day as needed.  
15. Oxandrolone 2.5 mg Tablet Sig: Two (2) Tablet PO twice a 
day.  
16. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.  
17. Quetiapine 25 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
18. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
19. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO ASDIR (AS 
DIRECTED): Please take ___, ___  .  
20. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
21. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
22. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
23. Keflex ___ mg Capsule Sig: One (1) Capsule PO four times a 
day for 2 days.
Disp:*8 Capsule(s)* Refills:*0*
24. Propranolol 80 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Complete Heart Block 
                   Status-post pacemaker placement

Secondary Diagnosis: Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital after your 
recent episodes of shaking and lightheadedness. You were found 
to have an abnormal heart rhythm in the emergency room. Shortly 
thereafter, you underwent placement of a pacemaker for your 
heart. This procedure was effective in controlling your heart 
rate and heart rhythm.
.
Please START the following medication after discharge:
Keflex ___ mg, four times per day for two days

Please continue all other medications as prescribed. You will 
follow-up with cardiology in one week.
 
Followup Instructions:
___